US04346225
4-Benzoyl-5,5-dimethyl-2-methylamino-4,5-dihydro-1,3,4-thiadiazole
A 42 g. portion of 4-methylthiosemicarbazide was reacted with 23.2 g. of acetone in 500 ml. of toluene as described in Example 1, except that the mixture was heated briefly to reflux, and then cooled to 70°, before 32 ml. of pyridine was added. Then the mixture was cooled to 20°, and 56.3 g. of benzoyl chloride was added. The reaction mixture was worked-up substantially as described in Example 1 to obtain 31.8 g. of the desired product, m.p. 130°-136°.

reactant | 4-methylthiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | acetone | CC(=O)C | C3H6O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Benzoyl-5,5-dimethyl-2-methylamino-4,5-dihydro-1,3,4-thiadiazole | C(C1=CC=CC=C1)(=O)N1N=C(SC1(C)C)NC | C12H15N3OS
